US08802661B2
Preparation of (1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate. Intermediate 3
To a solution of (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (6.9 g, 12.67 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (9.05 g, 25.3 mmol) in THF (200 mL) at −78° C. was added KHMDS (50.7 mL, 25.3 mmol) slowly. The reaction mixture was stirred for 1 hour at −78° C. TLC indicated starting material was consumed and desired product was formed. The reaction mixture was quenched with brine, extracted with diethyl ether. The extracts were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was dissolved in toluene and purified by biotage 2-10% toluene/hexanes and 5-10% ethyl acetate/hexanes to provide the title compound as a white solid (5.0 g, 58%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 0.77 (s, 3H), 0.88 (s, 3H), 0.91-1.77 (m, 17H), 0.94 (s, 3H), 1.00 (s, 3H), 1.10 (s, 3H), 1.67 (s, 3H), 1.81-1.96 (m, 2H), 2.14 (dd, J=17.09, 6.71 Hz, 1H), 2.22 (td, J=12.21, 3.36 Hz, 1H), 2.25-2.31 (m, 1H), 3.02 (td, J=10.99, 4.58 Hz, 1H), 4.59 (s, 1H), 4.72 (d, J=1.53 Hz, 1H), 5.05-5.12 (m, 1H), 5.13-5.18 (m, 1H), 5.54 (dd, J=6.71, 1.53 Hz, 1H), 7.29-7.41 (m, 5H).

reactant | (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 12.67 mmol, 6.9 g | C[C@]12CC[C@@]3([C@@H]([C@H]2CCC2[C@]4(CCC(C([C@@H]4CC[C@@]12C)(C)C)=O)C)[C@@H](CC3)C(=C)C)C(=O)OCC3=CC=CC=C3 | C37H52O3
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 25.3 mmol, 9.05 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | KHMDS | 25.3 mmol, 50.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)OS(=O)(=O)C(F)(F)F)C)[C@@H](CC3)C(=C)C)C(=O)OCC3=CC=CC=C3 | C38H51F3O5S
